US05298652
A mixture of 2.5 g (5.95 mmol) of 2-hydroxy-5-(octadecyloxy)benzoic acid methyl ester, 0.78 ml (6.54 mmol) of benzyl bromide and 4.1 g (29.8 mmol) of potassium carbonate in 100 ml of acetone and 10 ml of DMF was stirred at reflux under an argon atmosphere for 24 hours. The solvent was removed at reduced pressure and the residue was treated with water. The product was extracted with ethyl ether and the dried extract was concentrated to a solid which was purified by HPLC using 5% ethyl acetate-hexane to give 2.5 g (82% yield, mp 52°-54°) of 5-(octadecyloxy)-2-(phenylmethoxy)benzoic acid methyl ester.

reactant | 2-hydroxy-5-(octadecyloxy)benzoic acid methyl ester | 5.95 mmol, 2.5 g | COC(C1=C(C=CC(=C1)OCCCCCCCCCCCCCCCCCC)O)=O | C26H44O4
reactant | benzyl bromide | 6.54 mmol, 0.78 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 29.8 mmol, 4.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 5-(octadecyloxy)-2-(phenylmethoxy)benzoic acid methyl ester | 2.5 g, 82% yield | COC(C1=C(C=CC(=C1)OCCCCCCCCCCCCCCCCCC)OCC1=CC=CC=C1)=O | C33H50O4
